US03953162
1.6 Parts of the anhydride of N,N-diethyl-4(3,4-dicarboxyphenylazo)aniline is dissolved in 25 parts of methanol and the solution heated under reflux for 2 hours. The solution is then evaporated in vacuo to give N,N-diethyl-4(3-carboxy-4-carbomethoxyphenylazo)aniline which gives an orange solution in acetone with λmax 453.

reactant | N,N-diethyl-4(3,4-dicarboxyphenylazo)aniline | C(C)N(C1=CC=C(C=C1)N=NC1=CC(=C(C=C1)C(=O)O)C(=O)O)CC | C18H19N3O4
reactant | methanol | CO | CH4O
product | N,N-diethyl-4(3-carboxy-4-carbomethoxyphenylazo)aniline | C(C)N(C1=CC=C(C=C1)N=NC1=CC(=C(C=C1)C(=O)OC)C(=O)O)CC | C19H21N3O4
